US09334271B2
e) 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-8-pyridin-2-yl-9-(tetrahydro-pyran-2-yl)-9H-purine
8-Bromo-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine (40 mg, 83 μmol) was dissolved in 2 mL of toluene under argon in a microwave vial, and 2-(tributylstannyl)-pyridine (36 mg, 83 μmol) and Pd(PPh3)4 (4.8 mg, 4.2 μmol) were added. The microwave vial was capped, and the reaction mixture was stirred for 3 hours at 120° C. The vial was cooled to room temperature and opened. The mixture was diluted with EtOAc (20 mL) and brine. The organic layer was separated, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (12 g SiO2, heptane/TBME in a gradient from 4/1 to 2/3) to give the product as a solid (35 mg, 88%).

reactant | 8-Bromo-2,6-bis-((R)-3-methyl-morpholin-4-yl)-9-(tetrahydro-pyran-2-yl)-9H-purine | 83 μmol, 40 mg | BrC=1N(C2=NC(=NC(=C2N1)N1[C@@H](COCC1)C)N1[C@@H](COCC1)C)C1OCCCC1 | C20H29BrN6O3
reactant | 2-(tributylstannyl)-pyridine | 83 μmol, 36 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | Pd(PPh3)4 | 4.2 μmol, 4.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,6-Bis-((R)-3-methyl-morpholin-4-yl)-8-pyridin-2-yl-9-(tetrahydro-pyran-2-yl)-9H-purine | 35 mg, 88% | C[C@H]1N(CCOC1)C1=NC(=C2N=C(N(C2=N1)C1OCCCC1)C1=NC=CC=C1)N1[C@@H](COCC1)C | C25H33N7O3
